US04661635
4-(5-Dimethylamino-2-iodophenyl)-2-butanone Hydrochloride
A solution of 0.16 moles of iodonium nitrate in 280 ml of CHCl3 was added to 30.4 g of 4-(3-dimethylaminophenyl)-2-butanone. The mixture was stirred for 2 hr. Ether was added and the precipitated solid was removed by filtration. The solvent was evaporated in vacuo. The residue was paartitioned between water and ether. The ether solution was washed with sodium thiosulfate solution and brine. The solution was dried (K2CO3) and the solvent evaporated. The residue was taken up in ether and ethereal hydrogen chloride added. The precipitate (47.4 g, 85% yield) of the title compound was collected mp 120°-121° C.

reactant | iodonium nitrate | 0.16 moles | [N+](=O)([O-])[O-].[IH2+]
reactant | 4-(3-dimethylaminophenyl)-2-butanone | 30.4 g | CN(C=1C=C(C=CC1)CCC(C)=O)C | C12H17NO
reactant | Ether | CCOCC | C4H10O
reactant | CHCl3 | 280 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-(5-Dimethylamino-2-iodophenyl)-2-butanone Hydrochloride | Cl.CN(C=1C=CC(=C(C1)CCC(C)=O)I)C | InChI=1S/C12H16INO.ClH/c1-9(15)4-5-10-8-11(14(2)3)6-7-12(10)13;/h6-8H,4-5H2,1-3H3;1H
